US05021432
The procedure of Reference Example 2 was repeated except that 1.3 g of 6-cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran and 1.0 g of benzoylhydrazine was used, and 1.18 g of trans-4-(2-benzoylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol was obtained as white crystals, m.p. 197°-199° C. (recrystallized from hexane-ethanol).

reactant | 6-cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 1.3 g | C(#N)C=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C12H11NO2
reactant | benzoylhydrazine | 1.0 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | hexane ethanol | CCCCCC.C(C)O
product | trans-4-(2-benzoylhydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 1.18 g | C(C1=CC=CC=C1)(=O)NN[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C19H19N3O3
